US07964597B2
1,1-Dimethylethyl (2S)-2-methyl-4-[(4-nitrophenyl)methyl]-1-piperazinecarboxylate (D1)
A mixture of 4-nitrobenzaldehyde (15.1 g, 0.1 mol), 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (21.3 g, 0.09 mol), triethylamine (15 mL, 0.108 mol) and sodium tri(acetoxy)borohydride (42.4 g, 0.2 mol) in 1,2-DCE (500 mL) was stirred at room temperature overnight. Saturated aqueous NaHCO3 solution (200 mL) was added and the mixture stirred for 20-30 minutes. The phases were separated and the aqueous phase was washed with DCM. The combined organics were washed with brine, dried and concentrated. Column chromatography eluting with 0-20% EtOAc/hexane gave the title compound as a yellow oil which crystallized on standing (25.61 g). δH (CDCl3, 400 MHz) 8.19 (2H, d), 7.53 (2H, d), 4.21 (1H, br.s), 3.83 (1H, d), 3.62 (1H, d), 3.50 (1H, d), 3.13 (1H, td), 2.74 (1H, m), 2.54 (1H, m), 2.20 (1H, dd), 2.08 (1H, m), 1.46 (9H, s), 1.25 (3H, d).

reactant | 4-nitrobenzaldehyde | 0.1 mol, 15.1 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 0.09 mol, 21.3 g | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 0.108 mol, 15 mL | C(C)N(CC)CC | C6H15N
reactant | sodium tri(acetoxy)borohydride | 0.2 mol, 42.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-DCE | 500 mL | ClCCCl | C2H4Cl2
product | 1,1-Dimethylethyl (2S)-2-methyl-4-[(4-nitrophenyl)methyl]-1-piperazinecarboxylate | C[C@@H]1N(CCN(C1)CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C17H25N3O4
